US08247576B2
62A. 1-[3-(4-Bromo-phenyl)-3-phenoxy-propyl]-1H-imidazole
Phenol was reacted with 1-(4-Bromo-phenyl)-3-imidazol-1-yl-propan-1-ol* following the procedure set out in Example 48B to give the title compound. LC/MS: (PS-A2) Rt 2.30 [M+H]+ 357.26, 359.27.

reactant | Phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 1-(4-Bromo-phenyl)-3-imidazol-1-yl-propan-1-ol | BrC1=CC=C(C=C1)C(CCN1C=NC=C1)O | C12H13BrN2O
product | 1-[3-(4-Bromo-phenyl)-3-phenoxy-propyl]-1H-imidazole | BrC1=CC=C(C=C1)C(CCN1C=NC=C1)OC1=CC=CC=C1 | C18H17BrN2O
